US20010021718A1
(cyclobutylmethyl)(triphenyl)phosphonium bromide
A solution of (bromomethyl)cyclobutane (4.5 ml, 0.04 mol) in toluene (50 ml) was treated with triphenylphosphine (10.56 g, 0.04 mol) and the mixture stirred at reflux, under a nitrogen atmosphere, for 2 days. The mixture was allowed to cool to room temperature and treated with hexane (50 ml). The solvent was decanted off and further hexane added. The solvent was decanted off again. The solid was washed with diethyl ether (×2) and dried under reduced pressure to afford the title compound as a white solid (6.34 g).

reactant | (bromomethyl)cyclobutane | 0.04 mol, 4.5 ml | BrCC1CCC1 | C5H9Br
reactant | triphenylphosphine | 0.04 mol, 10.56 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hexane | 50 ml | CCCCCC | C6H14
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (cyclobutylmethyl)(triphenyl)phosphonium bromide | 6.34 g | [Br-].C1(CCC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H24P.BrH/c1-4-13-21(14-5-1)24(19-20-11-10-12-20,22-15-6-2-7-16-22)23-17-8-3-9-18-23;/h1-9,13-18,20H,10-12,19H2;1H/q+1;/p-1
